Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
Tracheostomy and PEG placement (___)
 
History of Present Illness:
___ is a ___ left-handed man, with PMH significant for
growth hormone-secreting pituitary macroadenoma (s/p 
craniotomies
x2) and childhood stroke, who presented with 3 events concerning
for seizure. 

The patient was in his USOH until this morning. Per report the
patient told his family that he was seeing his dead grandmother.
He went to lay down in his room. about 30 min later his family
heard him call out his grandmothers name. When they came into 
the
room he was "unresponsive" in bed. They lowered him to the 
ground
and called ___. He was still unresponsive when EMS arrived and 
an
IO was placed. He was taken to OSH where he slowly returned to
baseline. In the OSH ED he had another event where he suddenly
stopped talking mid sentence followed by "rhythmically pulling
arms up towards his chest". He would look towards his name if
called but would not interact further. He received 1mg of Ativan
and again returned to his baseline (within a few min) stating he
wanted to go home. He went for NCHCT which did not show any 
acute
pathology. He then had a ___ event which did not improve with
Ativan. He was intubated for transport, given 1500mg of keppra
and med-flighted to ___. 

The patient was followed here by Dr. ___ ___ to ___ and
___ from ___ to ___. He underwent subfrontal craniotomy in
___ for debulking followed by left subfrontal craniotomy in 
___
for further resection. He now follows with endocrine for
acromegaly and panhypopituitarism. 

Baseline exam per chart review includes normal language testing,
hemifacial atrophy on the right side. contracture of RUE with 
RUE
weakness.  
 
Past Medical History:
- Acromegaly 
- Panhypopituitarism
- Growth hormone-secreting pituitary macroadenoma s/p debulking
in ___ and resection in ___ s/p external beam irradiation 
- DM
- HTN
- HLD
- sleep apnea 
- childhood stroke with resulting right sided weakness. 
 
Social History:
___
Family History:
His mother died at age ___ from an unspecified cause and she had
hearing problems.  His father has hypertension. He has 3 sisters
and 3 brothers; they are all healthy.  He does not have 
children.
 
Physical Exam:
=======================
ADMISSON PHYSICAL EXAM
=======================
97.6 87 148/92 18 100% Intubated  
(episode of bradycardia into high ___ followed by hypotesion
which improved with atropine) 

GENERAL MEDICAL EXAMINATION:
General appearance: intubated and sedated
HEENT: Intubated. Sclera are non-injected. Mucous membranes are
moist. 
CV: Heart rate is regular
Lungs: Vented 
Abdomen: soft, non-tender 
Extremities: RUE contractures  
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION: 20 min off sedation. 2+hr since
paralytics 
Mental Status: eyes closed. done not wake to voice or noxious.
does not follow any commands. 

Cranial Nerves:
Pupils equally round and sluggishly reactive to light. No BTT.
VOR suppressed. no corneal bl. Face appears symmetric around 
ETT.
+ cough and gag. 

Motor/sensory: Increased tone in RUE. Antigravity movement to
noxious in ___ (seems brisker on the right). minimal movement
in UE in the plane of the bed only - to deep noxious only.

Reflexes: Brisk in RUE, 2 in left ___. trace in pat 
bl.
absent at ankles. 
Toes are up on the right and down on the left.

Coordination: unable to test
Gait: unable to test 

=======================
DISCHARGE PHYSICAL EXAM
=======================
Opens eyes to voice. Non-verbal. Follows simple commands 
involving eye movements consistently such as look to the 
window/door. Tracks in all directions. No blink to threat. 
Contracture of R hand. Slightly moves R UE and ___ to pain. No 
movement in L ___. CTA. RRR. + BS. 

 
Pertinent Results:
=======
LABS
=======
___ 08:10AM BLOOD Lipase-37
___ 04:00AM BLOOD CK-MB-7 cTropnT-<0.01
___ 04:00AM BLOOD %HbA1c-6.3* eAG-134*
___ 04:00AM BLOOD Triglyc-120 HDL-37 CHOL/HD-5.3 
LDLcalc-135*
___ 04:00AM BLOOD TSH-0.64
___ 12:16AM BLOOD T4-3.9* Free T4-0.5*
___ 08:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:21AM BLOOD Lupus-NEG
___ 12:21AM BLOOD ProtCFn-140 ProtSFn-103
___ 12:21AM BLOOD AT-147*
___ 12:21AM BLOOD b2micro-1.5
___ 12:21AM BLOOD HIV Ab-Negative
___ 02:49AM BLOOD WBC-9.3# RBC-4.70 Hgb-11.1* Hct-34.7* 
MCV-74* MCH-23.6* MCHC-32.0 RDW-14.0 RDWSD-36.5 Plt ___
___ 02:02AM BLOOD WBC-9.3 RBC-5.06 Hgb-11.9* Hct-37.3* 
MCV-74* MCH-23.5* MCHC-31.9* RDW-14.7 RDWSD-36.4 Plt ___
___ 12:48AM BLOOD WBC-15.0*# RBC-5.16 Hgb-12.3* Hct-38.2* 
MCV-74* MCH-23.8* MCHC-32.2 RDW-16.0* RDWSD-37.2 Plt ___
___ 02:06AM BLOOD WBC-12.6* RBC-4.47* Hgb-10.6* Hct-34.1* 
MCV-76* MCH-23.7* MCHC-31.1* RDW-15.8* RDWSD-39.8 Plt ___
___ 01:28AM BLOOD WBC-10.8* RBC-4.26* Hgb-10.1* Hct-33.1* 
MCV-78* MCH-23.7* MCHC-30.5* RDW-15.9* RDWSD-41.4 Plt ___
___ 01:04AM BLOOD WBC-10.3* RBC-4.13* Hgb-9.9* Hct-31.6* 
MCV-77* MCH-24.0* MCHC-31.3* RDW-15.6* RDWSD-40.3 Plt ___
___ 03:43AM BLOOD WBC-6.2 RBC-4.02* Hgb-9.6* Hct-30.7* 
MCV-76* MCH-23.9* MCHC-31.3* RDW-15.3 RDWSD-39.4 Plt ___
___ 02:55AM BLOOD WBC-8.9 RBC-4.16* Hgb-10.0* Hct-32.2* 
MCV-77* MCH-24.0* MCHC-31.1* RDW-15.3 RDWSD-40.8 Plt ___
___ 04:50AM BLOOD WBC-8.7 RBC-4.03* Hgb-9.6* Hct-30.8* 
MCV-76* MCH-23.8* MCHC-31.2* RDW-15.4 RDWSD-39.8 Plt ___
___ 04:43AM BLOOD WBC-8.7 RBC-4.07* Hgb-9.9* Hct-31.1* 
MCV-76* MCH-24.3* MCHC-31.8* RDW-15.9* RDWSD-41.1 Plt ___
___ 10:30AM BLOOD WBC-8.7 RBC-3.94* Hgb-9.6* Hct-30.5* 
MCV-77* MCH-24.4* MCHC-31.5* RDW-16.1* RDWSD-42.0 Plt ___
___ 05:22AM BLOOD WBC-10.0 RBC-4.56* Hgb-11.0* Hct-35.3* 
MCV-77* MCH-24.1* MCHC-31.2* RDW-16.3* RDWSD-42.1 Plt ___
___ 03:27AM BLOOD WBC-9.6 RBC-3.75* Hgb-9.1* Hct-29.6* 
MCV-79* MCH-24.3* MCHC-30.7* RDW-16.6* RDWSD-46.0 Plt ___
___ 04:41AM BLOOD WBC-7.9 RBC-3.61* Hgb-8.8* Hct-28.4* 
MCV-79* MCH-24.4* MCHC-31.0* RDW-16.0* RDWSD-44.2 Plt ___
___ 02:49AM BLOOD ___ PTT-29.1 ___
___ 02:49AM BLOOD Plt ___
___ 02:02AM BLOOD Plt ___
___ 12:48AM BLOOD Plt ___
___ 02:06AM BLOOD Plt ___
___ 01:28AM BLOOD ___ PTT-25.7 ___
___ 01:28AM BLOOD Plt ___
___ 01:04AM BLOOD Plt ___
___ 03:43AM BLOOD Plt ___
___ 02:55AM BLOOD ___ PTT-25.5 ___
___ 02:55AM BLOOD Plt ___
___ 04:50AM BLOOD ___ PTT-29.1 ___
___ 04:50AM BLOOD Plt ___
___ 04:43AM BLOOD Plt ___
___ 10:30AM BLOOD ___ PTT-28.5 ___
___ 10:30AM BLOOD Plt ___
___ 05:22AM BLOOD ___ PTT-28.9 ___
___ 05:22AM BLOOD Plt ___
___ 04:45AM BLOOD Plt ___
___ 03:27AM BLOOD Plt ___
___ 04:41AM BLOOD Plt ___
___ 04:29PM BLOOD Glucose-91 UreaN-15 Creat-0.7 Na-140 
K-3.5 Cl-102 HCO3-26 AnGap-16
___ 02:02AM BLOOD Glucose-161* UreaN-24* Creat-0.8 Na-141 
K-3.4 Cl-102 HCO3-24 AnGap-18
___ 08:00AM BLOOD Glucose-134* UreaN-25* Creat-0.7 Na-142 
K-4.0 Cl-104 HCO3-25 AnGap-17
___ 12:48AM BLOOD Glucose-183* UreaN-26* Creat-0.7 Na-142 
K-3.6 Cl-105 HCO3-25 AnGap-16
___ 02:06AM BLOOD Glucose-185* UreaN-25* Creat-0.8 Na-148* 
K-3.5 Cl-110* HCO3-25 AnGap-17
___ 01:28AM BLOOD Glucose-196* UreaN-25* Creat-0.9 Na-150* 
K-3.3 Cl-112* HCO3-28 AnGap-13
___ 01:04AM BLOOD Glucose-183* UreaN-28* Creat-0.7 Na-145 
K-3.0* Cl-108 HCO3-27 AnGap-13
___ 03:43AM BLOOD Glucose-220* UreaN-31* Creat-0.5 Na-145 
K-3.6 Cl-108 HCO3-29 AnGap-12
___ 02:55AM BLOOD Glucose-178* UreaN-25* Creat-0.6 Na-144 
K-3.5 Cl-108 HCO3-25 AnGap-15
___ 04:50AM BLOOD Glucose-149* UreaN-21* Creat-0.7 Na-145 
K-3.0* Cl-109* HCO3-26 AnGap-13
___ 04:43AM BLOOD Glucose-146* UreaN-20 Creat-0.6 Na-143 
K-3.2* Cl-106 HCO3-26 AnGap-14
___ 10:30AM BLOOD Glucose-151* UreaN-20 Creat-0.6 Na-141 
K-3.3 Cl-106 HCO3-23 AnGap-15
___ 05:22AM BLOOD Glucose-136* UreaN-19 Creat-0.7 Na-144 
K-3.6 Cl-104 HCO3-23 AnGap-21*
___ 04:45AM BLOOD Glucose-151* UreaN-22* Creat-0.6 Na-147* 
K-3.8 Cl-110* HCO3-27 AnGap-14
___ 03:27AM BLOOD Glucose-192* UreaN-20 Creat-0.7 Na-144 
K-3.8 Cl-108 HCO3-25 AnGap-15
___ 04:41AM BLOOD Glucose-168* UreaN-18 Creat-0.5 Na-144 
K-3.8 Cl-108 HCO3-28 AnGap-12
___ 01:04AM BLOOD ALT-16 AST-17 LD(LDH)-267* CK(CPK)-272 
AlkPhos-72 TotBili-0.2
___ 02:49AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.8
___ 02:02AM BLOOD Calcium-10.1 Phos-4.1 Mg-1.9
___ 12:48AM BLOOD Calcium-9.6 Phos-3.5 Mg-1.9
___ 02:06AM BLOOD Calcium-9.2 Phos-3.5 Mg-1.7
___ 01:28AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.0
___ 01:04AM BLOOD Calcium-9.2 Phos-3.1 Mg-1.9
___ 03:43AM BLOOD Calcium-8.9 Phos-3.5 Mg-1.9
___ 02:55AM BLOOD Calcium-8.9 Phos-4.9* Mg-2.0
___ 04:50AM BLOOD Calcium-8.9 Phos-4.6* Mg-1.9 Iron-44*
___ 04:43AM BLOOD Calcium-9.2 Phos-4.2 Mg-1.8
___ 10:30AM BLOOD Calcium-9.2 Phos-4.9* Mg-1.9
___ 05:22AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.0
___ 04:45AM BLOOD Calcium-9.4 Phos-4.9* Mg-2.2
___ 03:27AM BLOOD Calcium-8.9 Phos-4.7* Mg-2.2
___ 04:41AM BLOOD Calcium-8.9 Phos-4.2 Mg-2.1
___ 04:50AM BLOOD calTIBC-287 Ferritn-81 TRF-221
___ 08:00AM BLOOD Osmolal-303
___ 12:48AM BLOOD Osmolal-309
___ 01:28AM BLOOD Osmolal-317*
___ 02:02AM BLOOD TSH-0.54
___ 02:02AM BLOOD T4-7.0 T3-41*
___ 12:21AM BLOOD CRP-2.5
___ 12:21AM BLOOD ___
___ 12:21AM BLOOD HIV Ab-Negative
___ 06:30AM BLOOD Vanco-16.5
___ 02:48PM BLOOD Vanco-14.4
___ 04:10PM BLOOD Vanco-22.1*
___ 04:43AM BLOOD Vanco-20.9*
___ 07:55PM BLOOD Vanco-16.9
___ 03:27AM BLOOD Vanco-20.4*

URINE CULTURE (Final ___:    NO GROWTH.

___ 11:00AM URINE Color-AMBER Appear-Cloudy Sp ___
___ 11:00AM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 11:00AM URINE RBC->182* WBC-10* Bacteri-MANY Yeast-NONE 
Epi-0

RAPID PLASMA REAGIN TEST (Final ___: NONREACTIVE.

Test                          Result              Reference 
Range/Units
CARDIOLIPIN AB (IGG)          <14                 GPL
CARDIOLIPIN AB (IGM)          <12                 MPL

ESR 14
CRP 2.5

============
CSF STUDIES
============

CSF GRAM STAIN (Final ___: NO POLYMORPHONUCLEAR LEUKOCYTES 
SEEN. NO MICROORGANISMS SEEN. 

___ FLUID CULTURE (Final ___: NO GROWTH.

Test Name                   Flag     Results        Unit    
Reference Value
---------                   ----     -------        ----    
---------------
Herpes Simplex Virus PCR
   Specimen Source                   CSF
   HSV 1, PCR                        Negative               
Negative
   HSV 2, PCR                        Negative               
Negative

___ 11:25AM CEREBROSPINAL FLUID (CSF) WBC-11 RBC-389* 
Polys-2 ___ ___ 11:24AM CEREBROSPINAL FLUID (CSF) WBC-11 RBC-4111* 
Polys-20 ___ Monos-18 Eos-1
___ 11:24AM CEREBROSPINAL FLUID (CSF) TotProt-103* 
Glucose-83
___ 01:43PM CEREBROSPINAL FLUID (CSF) WBC-3 RBC-1* Polys-0 
___ ___ 01:43PM CEREBROSPINAL FLUID (CSF) TotProt-26 Glucose-94

============
IMAGING
============
CTA HEAD AND NECK (___):
1. Study is limited secondary to streak artifact from overlying 
hardware. 
2. Evolving acute infarct in the right middle cerebral artery 
distribution 
right frontal periventricular white matter, right basal ganglia 
and right 
temporal lobe without definite evidence of hemorrhagic 
conversion, as 
described above. 
3. Absent opacification of left M2 inferior division and distal 
branches 
compatible with patient's known left MCA distribution 
encephalomalacia. 
4. Focal nonocclusive stenosis of right and M2 upper branch. 
5. No evidence of acute intracranial hemorrhage. 
6. No evidence ofaneurysm greater than 3 mm or dissection. 
7. Periodontal disease and multiple dental caries. 

TTE (___):
The left atrium is normal in size. No thrombus/mass is seen in 
the body of the left atrium. No atrial septal defect is seen by 
2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). No masses or thrombi are seen in the left 
ventricle. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. No masses or vegetations are seen on the aortic 
valve. The mitral valve appears structurally normal with trivial 
mitral regurgitation. No mass or vegetation is seen on the 
mitral valve. The estimated pulmonary artery systolic pressure 
is normal. No vegetation/mass is seen on the pulmonic valve. 
There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, no 
clear change.

MRI WITH AND WITHOUT CONTRAST (___): 
1. Acute infarct in the right middle cerebral artery 
distribution involving the right temporal lobes, posterior limb 
of right internal capsule, tail of caudate nucleus, external 
capsule and claustrum without hemorrhagic conversion as 
described above. 
2. Stable postsurgical changes with encephalomalacia involving 
the left 
cerebral hemisphere. 
3. Stable 8 mm focus of enhancement in the inferior left frontal 
lobe adjacent to the anterior cerebral artery. 

NCHCT (___):
1. Evolving ischemic infarct involving the right frontal 
periventricular white matter, right basal ganglia, and right 
temporal lobe is unchanged in size and extent. 
2. No intracranial hemorrhage or loss of gray-white matter 
differentiation. 
3. Status post left frontotemporal craniotomy with stable 
encephalomalacia 
involving the left frontal, parietal, and temporal lobes. 

TEE (___):
No spontaneous echo contrast or thrombus is seen in the body of 
the ___ or the body of the RA/RAA. Presence of a PFO with 
left-to-right shunt. No evidence of right-to-left shunt by 
agitated saline injection with maneuvers. Normal biventricular 
systolic function.  

LOWER EXTREMITY ULTRASOUND (___):
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins although visualization of the leg veins is very limited as 
described 
above. 

MRI HEAD WITH AND WITHOUT CONTRAST (___):
1. Expected evolution of the recent infarction in the right 
basal ganglia and corona radiata, which is now subacute, with 
interim development of peripheral contrast enhancement.  No 
evidence for hemorrhagic transformation. 
2. Unchanged extensive encephalomalacia in the left cerebral 
hemisphere. 
3. New 4 mm enhancing focus in the left occipital region, either 
cortical 
leptomeningeal, with associated T2 hyperintensity and high 
signal on the 
diffusion tracer sequence.  This may represent a subacute 
infarct, and less likely an inflammatory process. 
4. 9 x 4 x 5 mm enhancing lesion at the left hypothalamus just 
adjacent the left anterior cerebral artery, similar to the 
recent MRI from ___ but less bulky in appearance than 
on the earlier MRI dated ___.  This may represent 
residual pituitary macroadenoma versus posttreatment changes. 
5. Inspissated secretions within the right frontal sinus, new 
compared to ___. 

CXR (___): 
Comparison to ___.  Increase in extent of a 
pre-existing right basal parenchymal opacity.  The finding would 
be consistent with aspiration or pneumonia.  Moderate 
cardiomegaly persists.  The endotracheal tube has been replaced 
by a tracheostomy tube.  .  This device is in correct position.  
No evidence of pneumothorax or pneumomediastinum. 

CXR (___):
Left PICC line terminates in the mid SVC.  Left IJ line folds 
back on itself and terminates in the left brachiocephalic vein. 

CXR (___):
No definite evidence of pneumonia.  Residual opacity in the 
right juxtahilar region likely represents atelectasis. 

___:
Mildly distended loops of large bowel, measure up to 6.7 cm, 
however no 
definite evidence of small bowel loop distention. A density in 
the upper right hemiabdomen may be secondary to a staghorn 
calculus measuring up to 3.5-cm. No evidence pneumatosis.  The 
visualized osseous structures are unremarkable. There is no SI 
joint, or pubic symphysis diastasis.  No focal lytic or 
sclerotic lesions are seen. 

___:
1.   Slight interval increase in the mildly distended loops of 
large bowel, which may be secondary to mild ileus. 
2.  3.2-cm right renal staghorn calculus. 

CT ABODMEN AND PELVIS WITH AND WITHOUT CONTRAST (___):
1. 2.8 cm right renal staghorn calculus, with mild 
hydronephrosis of the right kidney.  Additional nonobstructive 
calculi are seen throughout the right kidney, with the largest 
within the lower pole measuring up to 2.3 cm. 
2. No renal calculi seen within the left kidney. 
3. Moderate fecal loading. 
4. Mild splenomegaly. 
5. Interval improvement in the extent of ileus compared to the 
most recent 
prior radiograph, with the large bowel loops measuring up to 
6-cm, the upper limits of normal. 

CXR ___: 
In comparison to study of ___, there again are very low lung 
volumes.  
Monitoring and support devices are stable.  No evidence of acute 
pneumonia or vascular congestion. 

KUB ___
Diffuse gaseous distention of the colon is unchanged. Bowel gas 
pattern 
is non-obstructive. Large calcified stone in the right renal 
pelvis. 
  
==========
EEG
==========
___:
This is an abnormal continuous ICU EEG monitoring study because 
of a slower than average background without normal sleep or wake 
transitions. This pattern is suggestive of a moderate 
encephalopathy. The presence of superimposed beta frequency 
activity suggests the presence of intercurrent medications such 
as benzodiazepines or barbiturates. No epileptiform discharges 
were captured. Interval results were conveyed to the treating 
team intermittently during this recording period to assist with 
___ medical decision-making. 

___:
This is an abnormal continuous ICU EEG monitoring study because 
of a slower than average background without normal sleep or wake 
transitions. This pattern is suggestive of a moderate 
encephalopathy. The presence of superimposed beta frequency 
activity suggests the presence of intercurrent medications such 
as benzodiazepines or barbiturates. The intermittent focal 
slowing seen in the left anterior quadrant may represent the 
presence of a subcortical structural disturbance in this area. 
The single pushbutton activation had no EEG changes seen. No 
epileptiform discharges were captured. Interval results were 
conveyed to the treating team intermittently during this 
recording period to assist with ___ medical 
decision-making.

___:
This is an abnormal continuous ICU EEG monitoring study because 
of a slower than average background without normal sleep or wake 
transitions, although the periods of overriding delta frequency 
slowing may represent a state change. This pattern is suggestive 
of a moderate encephalopathy. The presence of superimposed beta 
frequency activity suggests the presence of intercurrent 
medications such as benzodiazepines or barbiturates. The 
intermittent focal slowing seen in the left anterior quadrant 
may represent the presence of a subcortical structural 
disturbance in this area. No epileptiform discharges were 
captured. Interval results were conveyed to the treating team 
intermittently during this recording period to assist with real- 
time medical decision-making.

___:
This is an abnormal continuous ICU EEG monitoring study because 
of a slower than average background without normal sleep or wake 
transitions, although the periods of overriding delta frequency 
slowing may represent a state change. This pattern is suggestive 
of a moderate encephalopathy. The intermittent focal slowing 
seen in the left anterior quadrant may represent the presence of 
a subcortical structural disturbance in this area. No 
epileptiform activity was seen. Interval results were conveyed 
to the treating team intermittently during this recording period 
to assist with ___ medical decision-making. 

___:
This is an abnormal continuous ICU EEG monitoring study because 
of a slower than average background without normal sleep or wake 
transitions, although the periods of overriding delta frequency 
slowing may represent a state change. This pattern is suggestive 
of a moderate encephalopathy. The intermittent focal slowing 
seen in the left anterior quadrant may represent the presence of 
a subcortical structural disturbance in this area. No 
epileptiform activity was seen. Interval results were conveyed 
to the treating team intermittently during this recording period 
to assist with ___ medical decision-making. 
 
Brief Hospital Course:
Mr. ___ is a ___ yo left-handed man with a past medical history 
notable for a childhood stroke (residual right upper extremity 
paresis with contracture) and a growth hormone-secreting 
pituitary macroadenoma s/p craniotomy x2 complicated by 
acromegaly and panhypopituitarism who presented ___ with 3 
events concerning for seizure; this required intubation. He was 
then admitted to the neurologic ICU for further management.

Hospital course by system: 

# NEUROLOGY 
As he was intubated and encephalopathic, pt was monitored on 
cvEEG for 5 days. This revealed findings suggestive of 
encephalopathy and pt had no subclinical seizures. He was 
started on Keppra 1000mg BID for seizure prevention and had no 
further seizures during hospitalization.

MRI brain revealed an acute right-sided subcortical infarct 
(right basal ganglia and corona radiata) and extensive left 
encephalomalacia throughout the cerebral hemisphere. The infarct 
appeared embolic. For further stroke work-up, a TTE was 
unremarkable (no bubble study) but TEE revealed a PFO. Lower 
extremity ultrasound did not reveal a DVT and hypercoagulable 
work-up was negative (however, Factor V leiden, homocysteine, 
and prothrombin were unable to be sent while pt was inpatient). 
RPR, Lyme and HIV were also negative. As pt had had a stroke as 
an infant, there was still concern for a hypercoagulable 
syndrome (however, it was unclear per family reports whether 
this stroke was related to meningitis). For treatment, pt was 
started on aspirin 81mg daily.

Otherwise, as part of pt's initial seizure work-up, pt underwent 
a LP in the ED (___) that revealed an elevated WBC to 11 and 
protein to 103. Pt was initiated on acyclovir empirically; this 
was discontinued after HSV ___ was negative. A repeat LP ___ 
was unremarkable with a normal protein and WBC. Pt's initial 
abnormal LP was felt to be likely due to traumatic tap, stroke, 
and seizure.

During hospital stay, pt remained obtunded with poor 
wakefulness. For further work-up, an autoimmune and 
paraneoplastic encephalitis panel was send from the CSF; this 
was entirely negative. The encephalopathy was felt to be due to 
pt's large subcortical stroke in the right hemisphere with a 
severely atrophied left hemisphere due to his prior stroke (poor 
substrate).

He eventually became more awake and interactive. He was able to 
communicate by looking to the left and right of the room with 
signs. Speech came to see him an provided him with an alphabet 
board. He was eventually able to give a thumbs up and pronate 
his hand. 

In terms of stroke risk factor modification we have added ASA 
81mg oral daily, as well as Amlodipine 5mg PO daily, metoprolol 
tartrate 25mg PO BID, and simvastatin 20mg PO daily.

# ENDOCRINE
History of pan-hypopituitarism and T2DM.  Initially on home 
metformin 500 XR daily which was stopped in favor of an insulin 
sliding scale for better control. Endocrinology service followed 
as inpatient. While admitted they held Desmopressin 0.1 mg QHS. 
Hydrocortisone was initially stress dosed, currently 20mg PO 
qam/ 10mg PO QPM. Levothyroxine continued at 150mcg PO daily 
(needs tube feeds held 2 hours before and after administration. 
Testosterone was held as this can cause hypercoagulability.

# CV
Known history of HTN which we addressed with amlodipine and 
metoprolol as above. For hyperlipidemia we have recommended 
simvastatin 20mg PO daily. During his ICU course he had 
autonomic storming which had improved on arrival to the 
neurology floor.
 
# RESPIRATORY
Hospital course was complicated by acute respiratory failure 
secondary to poor mental status. He also developed VAP s/p 
trach/PEG and was treated with a course od vancomycin with good 
response. He was transferred to the floor on trach mask with 
hopes of weaning off. While he was on the floor, he again 
developed another MRSA pneumonia for which he received 14 days 
of vancomycin.

#GI/NUTRITION
PEG placed prior to floor transfer. Tube feeds started with 
Glucerna 1.5 and cycled. GI prophylaxis with famotidine 20 mg 
tablet BID which is his home dose. Course complicated by 
abdominal distention due to large ileus (confirmed on KUB). 
Bowel regimen administrated with good effect. Had one episode of 
coughing TFs from trach in the setting of ileus. Tube feeds 
held, bowel regimen titrated with GI's assistance, eventually 
had a bowel movement and tolerated tube feeds again. He was 
transitioned to bolus feeds. 

# ID
As above mentioned developed VAP, mini-BAL on ___ showed MRSA. 
He was treated with an extended course of vancomycin in the 
setting of persistent fevers. UCx, BCx (___) were 
negative. He also developed fevers with associated colicky pain, 
found to have a bland u/a with a large RT staghorn calculus on 
imaging. CT a/p showed mild RT hydronephrosis. He was treated 
with a 7 day course of ceftriaxone. Urology consulted as below. 
He also developed a second MRSA pneumonia that was treated with 
14 days of IV vancomycin. 

# UROLOGY
Discussed staghorn calculus with urology service. Has mild 
hydronephrosis on CT so currently no indication for percutaneous 
nephrostomy tube. However, considered percutaneous 
nephrolithotomy as inpatient given his prolonged hospital 
course. However, he was not scheduled during this admission. 
Treated with CTX course as above. He will follow up with urology 
as outpatient. 

# HEME
On admission found with microcytic anemia. Iron studies WNL. 

===================
TRANSITIONAL ISSUES
===================
1. Large staghorn calculus RT kidney with associated pain and 
mild hyronephrosis on abdominal CT.
2. Resource information for low-cost, free medical equipment and 
health care access.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
() non-smoker - (x) unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO BID 
2. Levothyroxine Sodium 300 mcg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1. Suction machine with supplies
Dx: Right subcortical stroke, tracheostomy
2. Famotidine 20 mg PO BID 
RX *famotidine 40 mg/5 mL (8 mg/mL) 2.5 mL by mouth twice a day 
Refills:*3
3. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever 
RX *acetaminophen 160 mg/5 mL 20 mL by PEG every six (6) hours 
Disp #*473 Milliliter Milliliter Refills:*3
4. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by PEG daily Disp #*30 Tablet 
Refills:*3
5. Cyclobenzaprine 10 mg PO TID:PRN neck pain 
RX *cyclobenzaprine 10 mg 1 tablet(s) by PEG three times a day 
Disp #*90 Tablet Refills:*0
6. FLUoxetine 30 mg PO DAILY 
RX *fluoxetine 20 mg/5 mL (4 mg/mL) 7.5 mL by PEG daily Disp 
#*240 Milliliter Milliliter Refills:*3
7. Hydrocortisone 20 mg PO QAM 
RX *hydrocortisone 20 mg 1 tablet(s) by PEG qam Disp #*30 Tablet 
Refills:*3
8. Hydrocortisone 10 mg PO QPM 
RX *hydrocortisone 10 mg 1 tablet(s) by mouth qpm Disp #*30 
Tablet Refills:*3
9. Levothyroxine Sodium 150 mcg PO DAILY 
RX *levothyroxine 150 mcg 1 tablet(s) by PEG daily Disp #*30 
Tablet Refills:*3
10. Ibuprofen Suspension 400-800 mg PO Q8H:PRN fever, pain 
RX *ibuprofen 100 mg/5 mL 10 mL by PEG every six (6) hours Disp 
#*473 Milliliter Milliliter Refills:*3
11. LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 100 mg/mL 10 mL by PEG twice a day 
Disp #*473 Milliliter Milliliter Refills:*3
12. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.8 mg/5 mL 5 mL by PEG twice a day Disp 
#*236 Milliliter Milliliter Refills:*0
13. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 powder(s) by PEG 
daily Disp #*527 Gram Gram Refills:*3
14. Nystatin Ointment 1 Appl TP QID:PRN Groin 
15. Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by PEG qpm Disp #*30 Tablet 
Refills:*3
16. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by PEG daily Disp #*30 Tablet 
Refills:*3
17. Glucocard Shine Meter Kit (blood-glucose meter)    
miscellaneous QIDACHS 
RX *blood-glucose meter  use with breakfast, lunch, dinner, and 
bedtime 4x per day Disp #*1 Each Refills:*0
18. Glucocard Vital Test Strips (blood sugar diagnostic)    
miscellaneous QIDACHS 
RX *blood sugar diagnostic [Blood Glucose Test]  use 4 times per 
day use at breakfast, lunch, dinner, and bedtime Disp #*100 
Strip Refills:*3
19. MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by PEG twice a day Disp #*60 
Tablet Refills:*3
20. Outpatient Lab Work
Factor V Leiden, prothrombin gene, homocysteine

Fax to ___, neurology ___

ICD-9: 289.81

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
1. Generalized tonic clonic seizure 
2. Acute right sided stroke (corona radiata, posterior limb of 
the internal capsule, insula, claustrum)  

Secondary: 
1. Growth hormone-secreting pituitary macroadenoma s/p 
craniotomy x2 
2. Acromegaly 
3. Panhypopituitarism
4. Childhood stroke with resulting RT sided contractures
5. Large RT staghorn calulus causing mild hydronephrosis as per 
imaging during this admission. 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and somewhat interactive.
Activity Status: OOBTC with assistance.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with symptoms of generalized 
tonic clonic seizures resulting from an acute ischemic stroke in 
the right side of your brain. We stopped your seizure with a 
medication called keppra which you will continue to take. We 
performed a lumbar puncture to assess for causes of your seizure 
but found none. We looked for causes of stroke assessing for 
risk factors and found you to have elevated sugars, cholesterol, 
as well as blood pressure. We have added several medications to 
help control this. We checked an ultrasound of your heart and 
found an abnormal communication between the chambers which could 
have allowed a clot to pass. We looked for clots in your legs, 
but found none. We also checked your blood for coagulation 
issues but those tests were negative. 

We took care of you in the ICU where you required intubation, 
sedation, and later tracheotomy as you did not tolerate 
breathing without the tube. You also had a surgery to place a 
feeding tube. We treated you for pneumonia with an extended 
course of antibiotics. We also found you to have a urinary tract 
infection and you have completed a course of antibiotics. You 
were also found to have a large right kidney stone. We talked to 
urology to see if they could remove it, and they have decided to 
follow you as an outpatient. You had a second lung infection, 
which was treated again with a 2 week course of antibiotics. 

You will be discharged home for continuation of your care by 
your family.

Instructions: 
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team  
 
Followup Instructions:
___